US04518685
To 200 ml of a chloroform solution containing 100 g (0.71 mol) of dimedone was added 21 ml of phosphorus trichloride and the mixture was refluxed by heating for 3 hours. To the reaction solution was added ice water to terminate the reaction, the chloroform was distilled off under reduced pressure and the aqueous layer was extracted with ethyl acetate. The organic layer was dried with anhydrous sodium sulfate, concentrated under reduced pressure and the residue was purified by distillation under reduced pressure to obtain 45 g of 3 -chloro-5,5-dimethyl-2-cyclohexene-1-one. Yield: 40%, Boiling Point: 95° C. at 18 mmHg.

reactant | dimedone | 0.71 mol, 100 g | CC1(CC(=O)CC(=O)C1)C | C8H12O2
reactant | phosphorus trichloride | 21 ml | P(Cl)(Cl)Cl | Cl3P
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 3 -chloro-5,5-dimethyl-2-cyclohexene-1-one | 45 g, Yield: 40% | ClC1=CC(CC(C1)(C)C)=O | C8H11ClO
